US09107916B2
C. 2-[1-(4-cyanopyridin-2-yl)pyrazol-4-yl]ethyl methanesulfonate
To a mixture of 2-[4-(2-hydroxyethyl)pyrazol-1-yl]pyridine-4-carbonitrile (700 mg, 3.3 mmol), Et3N (670 mg, 6.6 mmol) in DCM (15 mL) was added MeSO2Cl (410 mg, 3.6 mmoL) at 0° C., the mixture was then stirred for 2 hours at room temperature, water was added and extracted with DCM and concentrated give the title compound (830 mg, 87%). [M+H] Calc'd for C12H12N4O3S, 293. Found, 293.

reactant | 2-[4-(2-hydroxyethyl)pyrazol-1-yl]pyridine-4-carbonitrile | 3.3 mmol, 700 mg | OCCC=1C=NN(C1)C1=NC=CC(=C1)C#N | C11H10N4O
reactant | Et3N | 6.6 mmol, 670 mg | CCN(CC)CC | C6H15N
reactant | MeSO2Cl | 410 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-[1-(4-cyanopyridin-2-yl)pyrazol-4-yl]ethyl methanesulfonate | 830 mg, 87% | CS(=O)(=O)OCCC=1C=NN(C1)C1=NC=CC(=C1)C#N | C12H12N4O3S
